US06509328B1
{2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4-phenylethynyl-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester (Example G2) (214 mg, 0.7 mmol) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example J4) (250 mg, 1.1 mmol) according to the general procedure K. Obtained as a light yellow solid (260 mg).

reactant | (2-amino-4-phenylethynyl-phenyl)-carbamic acid tert.-butyl ester | 0.7 mmol, 214 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)N)=O | C19H20N2O2
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | 1.1 mmol, 250 mg | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
product | {2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-4-phenylethynyl-phenyl}-carbamic Acid tert.-Butyl Ester | 260 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=CC=C1)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C29H25N3O4
